US08461107B2
Step 1: Methyl(3aR,7S,10S,12R,22E,25aS)-7-cyclopentyl-16-methyl-5,8,19-trioxo-1,2,3,3a,5,6,7,8,11,12,21,24,25,25a-tetradecahydro-10H,19H-9,12-methanocyclopenta[18,19][1,10,3,6,12]dioxatriazacyclononadecino[11,12-b]quinazoline-10-carboxylate
Tetramethyltin (0.041 ml, 0.298 mmol), lithium chloride (50.5 mg, 1.191 mmol), triphenylphosphine (15.62 mg, 0.060 mmol) and bis(triphenylphosphine)palladium(II) chloride (15.68 mg, 0.022 mmol) were added to a nitrogen purged solution of methyl (3aR,7S,10S,12R,22E,25aS)-16-bromo-7-cyclopentyl-5,8,19-trioxo-1,2,3,3a,5,6,7,8,11,12,21,24,25,25a-tetradecahydro-10H,19H-9,12-methanocyclopenta[18,19][1,10,3,6,12]dioxatriazacyclononadecino[11,12-b]quinazoline-10-carboxylate, Example 59 Step 1 (100 mg, 0.149 mmol) in DMF (2 ml). The mixture was heated to 90° C. for 3 hr. The reaction was diluted with aqueous. KHSO4 and product extracted into ethyl acetate. The organic extract was washed with aqueous sodium bicarbonate, dried over sodium sulfate, filtered, concentrated and chromatographed on silica using 20-50% ethyl acetate/hexane to give the title compound as a foam, (74 mg, 82%). LCMS (ES+) m/z 607.3 (M+H)+.

reactant | Tetramethyltin | 0.298 mmol, 0.041 ml | C[Sn](C)(C)C
reactant | lithium chloride | 1.191 mmol, 50.5 mg | [Cl-].[Li+]
reactant | triphenylphosphine | 0.060 mmol, 15.62 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl (3aR,7S,10S,12R,22E,25aS)-16-bromo-7-cyclopentyl-5,8,19-trioxo-1,2,3,3a,5,6,7,8,11,12,21,24,25,25a-tetradecahydro-10H,19H-9,12-methanocyclopenta[18,19][1,10,3,6,12]dioxatriazacyclononadecino[11,12-b]quinazoline-10-carboxylate | BrC=1C=CC=2C(N3C(=NC2C1)O[C@@H]1C[C@H](N(C([C@@H](NC(O[C@H]2[C@H](CC/C=C/C3)CCC2)=O)C2CCCC2)=O)C1)C(=O)OC)=O | C32H39BrN4O7
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.022 mmol, 15.68 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl(3aR,7S,10S,12R,22E,25aS)-7-cyclopentyl-16-methyl-5,8,19-trioxo-1,2,3,3a,5,6,7,8,11,12,21,24,25,25a-tetradecahydro-10H,19H-9,12-methanocyclopenta[18,19][1,10,3,6,12]dioxatriazacyclononadecino[11,12-b]quinazoline-10-carboxylate | 74 mg, 82% | COC(=O)[C@H]1N2C([C@@H](NC(O[C@H]3[C@H](CC/C=C/CN4C(=NC=5C=C(C=CC5C4=O)C)O[C@H](C1)C2)CCC3)=O)C3CCCC3)=O | C33H42N4O7
